US08703805B2
Preparation of 4-(2-chlorophenyl)-3-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1-methyl-1H-pyrazole
A mixture of 4-bromo-3-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1-methyl-1H-pyrazole (88 mg, 022 mmol), 2-chlorophenylboronic acid (41 mg, 0.26 mmol), K2CO3 (91 mg, 0.66 mmol), Cl2Pd(dppf).DCM (18 mg, 10 mol %) and H2O (0.25 mL) in dioxane (2.5 mL) was sparged with Argon for 5 min and then heated at 80° C. as a sealed flask. After 4 h the reaction mixture was allowed to cool to ambient temperature, filtered (Celite™) and the filter agent rinsed with EtOAc. The combined filtrates were concentrated under reduced pressure and purified by chromatography (silica, EtOAc/Hex, 30:70 to 40:60) to give the title compound (64 mg, 67%). Rf 0.14 (40% EtOAc/Hex); 1H NMR (CD2Cl2): δ 8.09 (1H, m), 7.85-7.76 m), 7.60-7.49 (2H, m), 7.45 (1H, s), 7.41-7.30 (3H, m), 7.21 (1H, d), 6.70 (1H, d), 3.97 (3H, s), 3.05 (3H, s); MS (ES): 429 [M+H]+.

reactant | 4-bromo-3-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1-methyl-1H-pyrazole | 88 mg | BrC=1C(=NN(C1)C)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C | C15H13BrN2O2S2
reactant | 2-chlorophenylboronic acid | 0.26 mmol, 41 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 0.66 mmol, 91 mg | C(=O)([O-])[O-].[K+].[K+]
product | 4-(2-chlorophenyl)-3-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1-methyl-1H-pyrazole | 64 mg, 67% | ClC1=C(C=CC=C1)C=1C(=NN(C1)C)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C | C21H17ClN2O2S2
